US09422279B2
To a solution of (2-(1-isopropyl-1H-pyrazol-5-yl)pyridin-3-yl)methanol) (440 mg, 2.02 mmol) in DCM (4 mL) was added SOCl2 (2 eq) at 0° C. The reaction mixture was stirred at RT for 15 mins and concentrated to dryness. The crude solid was suspended in toluene and concentrated to dryness. The process was repeated three times and dried under vacuum to give 3-(chloromethyl)-2-(1-isopropyl-1H-pyrazol-5-yl)pyridine hydrochloride (432 mg) as an off-white solid, which was used for next step without further purification. MS (ESI) m/z 236.5 [M+H]+.

reactant | (2-(1-isopropyl-1H-pyrazol-5-yl)pyridin-3-yl)methanol | C(C)(C)N1N=CC=C1C1=NC=CC=C1CO | C12H15N3O
reactant | SOCl2 | 2 eq | O=S(Cl)Cl | Cl2OS
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-(chloromethyl)-2-(1-isopropyl-1H-pyrazol-5-yl)pyridine hydrochloride | 432 mg | Cl.ClCC=1C(=NC=CC1)C1=CC=NN1C(C)C | InChI=1S/C12H14ClN3.ClH/c1-9(2)16-11(5-7-15-16)12-10(8-13)4-3-6-14-12;/h3-7,9H,8H2,1-2H3;1H
